US04148788
Boc-Ala-Ala-OH
L-Alanine (3.57 g, 40 mmol) was dissolved in 18.8 ml of Triton B (40 mmol), evaporated to dryness, and the oily residue re-evaporated twice with DMF (30 ml each). The salt obtained was stirred with 11.45 g of Boc-Ala-OSu (40 mmol) in 40 ml DMF, with 4 ml of NMM added, for 20 hours. The solvent was removed and the residue taken up in 10% HOAc (100 ml). The product was extracted into EtOAc (4 times 100 ml), washed twice with a small volume of H2O, dried over Na2SO4, evaporated to a small volume, and treated with petroleum ether until cloudiness developed. A crystalline product formed on storage in the refrigerator overnight: Yield, 8.2 g (76.3%); mp 115°-118°.

reactant | L-Alanine | 40 mmol, 3.57 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | Boc-Ala-OSu | 40 mmol, 11.45 g | N([C@@H](C)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C12H18N2O6
reactant | NMM | 4 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | Boc-Ala-Ala-OH | N([C@@H](C)C(=O)N[C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C11H20N2O5
